US07807691B2
5-Amino-4-methyl-2-pyridin-3-yl-pentan-2-ol
Stir a mixture of 4-methyl-5-nitro-2-pyridin-3-yl-pentan-2-ol (860 mg, 3.84 mmol) and Pt—C(S) (200 mg) in EtOH (25 mL) at room temperature under hydrogen atmosphere (7 atm) for 24 h. Filter through a pad of Celite® and evaporate to obtain 630 mg (84%) of the title compound.

reactant | 4-methyl-5-nitro-2-pyridin-3-yl-pentan-2-ol | 3.84 mmol, 860 mg | CC(CC(C)(O)C=1C=NC=CC1)C[N+](=O)[O-] | C11H16N2O3
solvent | EtOH | 25 mL | CCO | C2H6O
product | 5-Amino-4-methyl-2-pyridin-3-yl-pentan-2-ol | 630 mg, 84% | NCC(CC(C)(O)C=1C=NC=CC1)C | C11H18N2O
